US04511515
combining the cerium (IV) solution with deprotonated 6,6,7,7,8,8,8-heptafluoro-2,2-dimethyl-3,5-octanedione to react the octanedione with the cerium (IV), and to thereby yield a tetrakis-(6,6,7,7,8,8,8-heptafluoro-2,2-dimethyl-3,5-octanedione) cerium (IV) product.

reactant | cerium (IV) | [Ce+4]
reactant | 6,6,7,7,8,8,8-heptafluoro-2,2-dimethyl-3,5-octanedione | FC(C(CC(C(C)(C)C)=O)=O)(C(C(F)(F)F)(F)F)F | C10H11F7O2
reactant | octanedione | CC(C(CCCCC)=O)=O | C8H14O2
product | tetrakis-(6,6,7,7,8,8,8-heptafluoro-2,2-dimethyl-3,5-octanedione) cerium (IV) | [Ce+4].FC(C(CC(C(C)(C)C)=O)=O)(C(C(F)(F)F)(F)F)F.FC(C(CC(C(C)(C)C)=O)=O)(C(C(F)(F)F)(F)F)F.FC(C(CC(C(C)(C)C)=O)=O)(C(C(F)(F)F)(F)F)F.FC(C(CC(C(C)(C)C)=O)=O)(C(C(F)(F)F)(F)F)F | InChI=1S/4C10H11F7O2.Ce/c4*1-7(2,3)5(18)4-6(19)8(11,12)9(13,14)10(15,16)17;/h4*4H2,1-3H3;/q;;;;+4
